US07700638B2
7-(3-Acetamidophenyl)-5-ethoxycarbonyl-1-phenylbenzimidazole
A mixture of 5-ethoxycarbonyl-7-iodo-1-phenylbenzimidazole (0.70 g, 1.8 mmol), 3-acetamidophenylboronic acid (0.48 g, 2.7 mmol), 1,3-propanediol (0.65 ml, 8.9 mmol), potassium carbonate (1.23 g, 8.9 mmol) and bis(triphenylphosphin)palladium dichloride (50 mg, 0.07 mmol) in a mixture of dimethoxyethane (10 ml) and water (5 ml) was stirred at reflux for 1 hour. The cooled reaction mixture was concentrated under reduced pressure, and the concentrate was partitioned between water and ethyl acetate. The organic phase was dried and concentrated under reduced pressure, and the concentrate was triturated in ethyl acetate leaving the product as an off-white solid (0.48 g, 67%) m/z, 400.2 (M+H)+.

reactant | 5-ethoxycarbonyl-7-iodo-1-phenylbenzimidazole | 1.8 mmol, 0.70 g | C(C)OC(=O)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C16H13IN2O2
reactant | 3-acetamidophenylboronic acid | 2.7 mmol, 0.48 g | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
reactant | 1,3-propanediol | 8.9 mmol, 0.65 ml | C(CCO)O | C3H8O2
reactant | potassium carbonate | 8.9 mmol, 1.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | 5 ml | O | H2O
catalyst | bis(triphenylphosphin)palladium dichloride | 0.07 mmol, 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(3-Acetamidophenyl)-5-ethoxycarbonyl-1-phenylbenzimidazole | C(C)(=O)NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(=O)OCC | C24H21N3O3
